US04352795
A mixture of 13.5 g of 4-allyloxy-2-methylsulfonyl-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine and 250 ml of liquid ammonia is heated at 100° C. for 2 hours and allowed to evaporate in a stream of nitrogen. The residue is dissolved in ethyl acetate and chromatographed over silica gel with ethyl acetate to provide 9.3 g of pure 2-amino-4-allyloxy-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine.

reactant | 4-allyloxy-2-methylsulfonyl-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | 13.5 g | C(C=C)OC=1C2=C(N=C(N1)S(=O)(=O)C)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C36H37N3O7S
reactant | ammonia | N | H3N
product | 2-amino-4-allyloxy-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | 9.3 g | NC=1N=C(C2=C(N1)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2)OCC=C | C35H36N4O5
